US06162811
1-[(2-Dimethylaminoethyl)aminocarbonyl]-5,6-dimethyl-9-(piperazinocarbonyloxy)-6H-pyrido[4,3-b]carbazole
2.6 g of 1-[(2-dimethylaminoethyl)aminocarbonyl]-5,6-dimethyl-9-[(4-benzyloxycarbonyl-piperazino)carbonyloxy]-6H-pyrido[4,3-b]carbazole, 5 ml of cyclohexene and 1 g of 10% palladium-on-carbon in 260 ml of methanol are refluxed for 45 minutes. The catalyst is removed by filtration and the filtrate is concentrated to dryness. The residue is chromatographed on silica using a mixture of dichloromethane, methanol and ammonia (85:15:1) as eluant. The product obtained is washed with diethyl ether and ethanol to yield 1.6 g of the desired product, m.p.(cap): 230-234° C.

reactant | 1-[(2-dimethylaminoethyl)aminocarbonyl]-5,6-dimethyl-9-[(4-benzyloxycarbonyl-piperazino)carbonyloxy]-6H-pyrido[4,3-b]carbazole | 2.6 g | CN(CCNC(=O)C1=NC=CC2=C(C=3N(C=4C=CC(=CC4C3C=C21)OC(=O)N2CCN(CC2)C(=O)OCC2=CC=CC=C2)C)C)C | C35H38N6O5
reactant | cyclohexene | 5 ml | C1=CCCCC1 | C6H10
solvent | methanol | 260 ml | CO | CH4O
catalyst | palladium-on-carbon | 1 g | [Pd] | Pd
product | 1-[(2-Dimethylaminoethyl)aminocarbonyl]-5,6-dimethyl-9-(piperazinocarbonyloxy)-6H-pyrido[4,3-b]carbazole | 1.6 g | CN(CCNC(=O)C1=NC=CC2=C(C=3N(C=4C=CC(=CC4C3C=C21)OC(=O)N2CCNCC2)C)C)C | C27H32N6O3
